US04593102
4-[(4-Methoxyphenyl)sulfonyl]piperidine monohydrochloride
A solution of 1.12 g (0.0038 mole) of 4-[(4-chlorophenyl)sulfonyl]piperidine monohydrochloride and 0.0152 mole of sodium methoxide in 60 ml of dimethylsulfoxide was heated at 90° C. for 2 hrs. The reaction mixture was quenched in water and diluted mixture was extracted with methylene chloride. The methylene chloride phase was dried over sodium sulfate and the solvent was removed on the rotary evaporator. The residue (the free base of the title compound) was dissolved in methanol and the solution was treated with an excess of ethereal hydrogen chloride. The resulting hydrochloride salt was recrystallized from methanol-diethyl ether to give white crystalline solid, m.p. 275°-276° C.

reactant | 4-[(4-chlorophenyl)sulfonyl]piperidine monohydrochloride | 0.0038 mole, 1.12 g | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1
reactant | sodium methoxide | 0.0152 mole | C[O-].[Na+]
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-[(4-Methoxyphenyl)sulfonyl]piperidine monohydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | InChI=1S/C12H17NO3S.ClH/c1-16-10-2-4-11(5-3-10)17(14,15)12-6-8-13-9-7-12;/h2-5,12-13H,6-9H2,1H3;1H
